US06013658
((2R)-2-((tert-Butoxycarbonyl)methylamino)-3-phenylpropoxy)acetic acid (0.37 g, 1.14 mmol) and 1-hydroxy-7-azabenzotriazole (0.26 g, 1.14 mmol) were dissolved in N,N-dimethylformamide (7 ml). N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.26 g, 1.37 mmol) was added. The solution was stirred for 30 min. A 33% solution of dimethylamine in ethanol (0.33 ml, 1.26 mmol) was added. The solution was stirred over night. Water (20 ml) and ethyl acetate (15 ml) were added. The organic phase was washed with a 1M solution of sodium hydrogensulfate (30 ml) and a saturated solution of sodium hydrogencarbonate (30 ml). It was dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by column chromatography on silica (15 g) using ethyl acetate and dichloromethane (1:1) as eluent. This product was dissolved in dichloromethane (3 ml) and was cooled to 0° C. Trifluoroacetic acid (1 ml) was added. The solution was stirred at 0° C. for 20 min. The solvent was removed in vacuo. The residue was dissolved in dichloromethane (10 ml) and 1N sodium hydroxide solution (10 ml). The phases were separated. The aqueous phase was extracted with dichloromethane (4×10 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo to give 140 mg of crude N,N-dimethyl-2-((2R)-2-methylamino-3-phenylpropoxy)acetamide, which was used for further syntheses.

reactant | ((2R)-2-((tert-Butoxycarbonyl)methylamino)-3-phenylpropoxy)acetic acid | 1.14 mmol, 0.37 g | C(C)(C)(C)OC(=O)CN[C@@H](COCC(=O)O)CC1=CC=CC=C1 | C17H25NO5
reactant | 1-hydroxy-7-azabenzotriazole | 1.14 mmol, 0.26 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.37 mmol, 0.26 g | Cl.C(C)N=C=NCCCN(C)C
reactant | dimethylamine | CNC | C2H7N
reactant | ethanol | 1.26 mmol, 0.33 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 20 ml | O | H2O
product | N,N-dimethyl-2-((2R)-2-methylamino-3-phenylpropoxy)acetamide | 140 mg | CN(C(COC[C@@H](CC1=CC=CC=C1)NC)=O)C | C14H22N2O2
